US06248738B1
A solution of 7-bromo-1-chloroisoquinoline (200 mg, 0.80 mmol), styrene (94 mg, 0.90 mmol), tri-o-tolylphosphine (30 mg, 12 mol %), palladium (II) acetate (Pd(OAc)2) (10 mg, 5 mol %) and triethylamine (0.34 mL, 2.5 mmol) in DMF (0.75 mL) were placed in a MOS-2000™ (650 W) microwave and irradiated at full power for 7×40s (reaction monitored by TLC). The mixture was poured into water and extracted with EtOAc. The combined organic layers were dried over MgSO4, evaporated in vacuo and the residue was purified by column chromatography upon silica gel using hexanes-EtOAc (100:0 to 95:5) as eluant to give 1-chloro-(2-phenylethen-1-yl)isoquinoline (135 mg, 0.508 mmol) as a yellow solid.

reactant | 7-bromo-1-chloroisoquinoline | 0.80 mmol, 200 mg | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
reactant | styrene | 0.90 mmol, 94 mg | C=CC1=CC=CC=C1 | C8H8
reactant | tri-o-tolylphosphine | 30 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 2.5 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 1-chloro-(2-phenylethen-1-yl)isoquinoline | 0.508 mmol, 135 mg | ClC1=NC(=CC2=CC=CC=C12)C=CC1=CC=CC=C1 | C17H12ClN
